datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Brc1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Brc1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)[NH:10]CC(O)c1cccc(N)c1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(C)[NH+:10](CC(O)c1cccc(N)c1)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"O=C(/C(=N/[O:21][H:20])c1ccccc1)c1ccccc1.O=[N+]([O-])c1ccc2[nH]c[n:10]c2c1>>O=C(/C(=N/[O-:21])c1ccccc1)c1ccccc1.O=[N+]([O-])c1ccc2[nH]c[n+:10]([H:20])c2c1 10=20;20,21=21",
"CCCCCCCCCCCCCCCC[N:10](CC(C)O)CC(C)O.c1ccc(-c2ccc(NCC[N+:21]3([H:20])CCOCC3)nn2)cc1>>CCCCCCCCCCCCCCCC[N+:10](CC(C)O)(CC(C)O)[H:20].c1ccc(-c2ccc(NCC[N:21]3CCOCC3)nn2)cc1 10=20;20,21=21",
"NC(=O)C(Cc1ccccc1)[NH-:10].c1c[nH]c(Cc2[nH]cc[n+:21]2[H:20])n1>>NC(=O)C(Cc1ccccc1)[NH:10][H:20].c1c[nH]c(Cc2[nH]cc[n:21]2)n1 10=20;20,21=21",
"Cc1[nH]c2cccc(N)c2[n+:21]1[H:20].c1cc(CC[NH2:10])ccn1>>Cc1[nH]c2cccc(N)c2[n:21]1.c1cc(CC[NH2+:10][H:20])ccn1 10=20;20,21=21",
"CCC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCCCCC[N:10](CCCCCC)c1ccccc1.O=P([O-])([O-])C([NH2+]Cc1cccnc1)c1ccccc1[O:21][H:20]>>CCCCCC[N+:10](CCCCCC)(c1ccccc1)[H:20].O=P([O-])([O-])C([NH2+]Cc1cccnc1)c1ccccc1[O-:21] 10=20;20,21=21",
"CC(/N=N/[O-:10])c1ccccc1.O=C1C2(CCCCC2)NC(=S)[N:21]1[H:20]>>CC(/N=N/[O:10][H:20])c1ccccc1.O=C1C2(CCCCC2)NC(=S)[N-:21]1 10=20;20,21=21",
"CC/C=C/C(=O)[O:21][H:20].C[NH:10]CC(O)c1cccc(O)c1>>CC/C=C/C(=O)[O-:21].C[NH+:10](CC(O)c1cccc(O)c1)[H:20] 10=20;20,21=21",
"CCCCCCn1cc[n+:21]([H:20])c1.CN(C)/C=[N:10]\c1cccc([N+](=O)[O-])c1>>CCCCCCn1cc[n:21]c1.CN(C)/C=[N+:10](\c1cccc([N+](=O)[O-])c1)[H:20] 10=20;20,21=21",
"C=C/C(C)=C/[C@@H](C)C(=O)C[C@@H](O)CC1CC(=O)[N:21]([H:20])C(=O)C1.c1cnc2c(c1)ccc1c3c(c[n:10]c12)CCC3>>C=C/C(C)=C/[C@@H](C)C(=O)C[C@@H](O)CC1CC(=O)[N-:21]C(=O)C1.c1cnc2c(c1)ccc1c3c(c[n+:10]([H:20])c12)CCC3 10=20;20,21=21",
"CCNc1nc(N)[n:10]c(N)n1.N#Cc1ccc(-c2nnn[n:21]2[H:20])cc1>>CCNc1nc(N)[n+:10]([H:20])c(N)n1.N#Cc1ccc(-c2nnn[n-:21]2)cc1 10=20;20,21=21",
"Cc1ccc(-c2c[n+:21]([H:20])c(-c3ccccc3)o2)cc1.O[C@H]1CCC[C@H]1[NH2:10]>>Cc1ccc(-c2c[n:21]c(-c3ccccc3)o2)cc1.O[C@H]1CCC[C@H]1[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)SC(c1ccccc1)=[NH:10].Nc1[nH][n+:21]([H:20])c(N)c1/N=N/c1ccccc1O>>CC(C)SC(c1ccccc1)=[NH+:10][H:20].Nc1[nH][n:21]c(N)c1/N=N/c1ccccc1O 10=20;20,21=21",
"CCc1cc2ccc3cccnc3c2[n:10]c1.O=C([O-])[C@@H]1O[C@H](Oc2cccc3c2ccc[n+:21]3[H:20])[C@@H](O)[C@H](O)[C@H]1O>>CCc1cc2ccc3cccnc3c2[n+:10]([H:20])c1.O=C([O-])[C@@H]1O[C@H](Oc2cccc3c2ccc[n:21]3)[C@@H](O)[C@H](O)[C@H]1O 10=20;20,21=21",
"CC(=O)c1cc[n:21]([H:20])n1.C[C@H](CCC[NH:10]Cc1ccccc1)[C@H]1CC[C@H]2[C@@H]3[C@@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C>>CC(=O)c1cc[n-:21]n1.C[C@H](CCC[NH+:10](Cc1ccccc1)[H:20])[C@H]1CC[C@H]2[C@@H]3[C@@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C 10=20;20,21=21",
"CC(=O)N(C)c1ccc[n:10]c1.CC[N+:21](CC)(CC(=O)NC1CCc2ccccc21)[H:20]>>CC(=O)N(C)c1ccc[n+:10]([H:20])c1.CC[N:21](CC)CC(=O)NC1CCc2ccccc21 10=20;20,21=21",
"C=C(C)C1=C([O-:10])CC(C)CC1.c1ccc(C(OCC[N+:21]2([H:20])CCCCC2)c2ccccc2)cc1>>C=C(C)C1=C([O:10][H:20])CC(C)CC1.c1ccc(C(OCC[N:21]2CCCCC2)c2ccccc2)cc1 10=20;20,21=21",
"Cc1ncnc2c1[nH]c[n+:21]2[H:20].O=C(c1ccc([N+](=O)[O-])o1)[O-:10]>>Cc1ncnc2c1[nH]c[n:21]2.O=C(c1ccc([N+](=O)[O-])o1)[O:10][H:20] 10=20;20,21=21",
"CCC[NH2+]CC[NH2+:21][H:20].COc1cccc([S-:10])c1>>CCC[NH2+]CC[NH2:21].COc1cccc([S:10][H:20])c1 10=20;20,21=21",
"CC(C)[NH:10]CCC#N.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC(C)[NH+:10](CCC#N)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC1=[N+:21]([H:20])CCc2c1[nH]c1ccccc21.Clc1cc2ccc[n:10]c2c2ncccc12>>CC1=[N:21]CCc2c1[nH]c1ccccc21.Clc1cc2ccc[n+:10]([H:20])c2c2ncccc12 10=20;20,21=21",
"CC(C)(C)C1=CC(=C2C=CC=CC=C2)C=C(C(C)(C)C)C1=[O+:21][H:20].c1ccc(C(CC[N:10]2CCOCC2)c2ccccc2)cc1>>CC(C)(C)C1=CC(=C2C=CC=CC=C2)C=C(C(C)(C)C)C1=[O:21].c1ccc(C(CC[N+:10]2([H:20])CCOCC2)c2ccccc2)cc1 10=20;20,21=21",
"O=C1/C(=N/[O:21][H:20])C=Cc2ccccc21.OC(c1ccccc1)(c1ccccc1)c1cccc[n:10]1>>O=C1/C(=N/[O-:21])C=Cc2ccccc21.OC(c1ccccc1)(c1ccccc1)c1cccc[n+:10]1[H:20] 10=20;20,21=21",
"CC1=CC(=O)Oc2cc([O-:10])ccc21.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC1=CC(=O)Oc2cc([O:10][H:20])ccc21.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(Cc1ccccc1)[NH2:10].O=C(c1ccc(O)cc1)[O:21][H:20]>>CC(Cc1ccccc1)[NH2+:10][H:20].O=C(c1ccc(O)cc1)[O-:21] 10=20;20,21=21",
"CC(C)N/C=[NH+]/c1ccc(-c2cn(C)c[n+:21]2[H:20])cc1.CCc1cc(CC)c(OC)c(C(=O)NCC2CCC[N:10]2CC)c1[O-]>>CC(C)N/C=[NH+]/c1ccc(-c2cn(C)c[n:21]2)cc1.CCc1cc(CC)c(OC)c(C(=O)NCC2CCC[N+:10]2(CC)[H:20])c1[O-] 10=20;20,21=21",
"Cc1cc(C)c2ccc3c(C)cc(C)[n:10]c3c2n1.O/N=C/c1cc[n+:21]([H:20])c2ccccc12>>Cc1cc(C)c2ccc3c(C)cc(C)[n+:10]([H:20])c3c2n1.O/N=C/c1cc[n:21]c2ccccc12 10=20;20,21=21",
"C[N+:21](C)(CCCCCCNC(=O)/C=N/[O-])[H:20].C[NH+](C)CCCCCNC(=O)/C=N/[O-:10]>>C[N:21](C)CCCCCCNC(=O)/C=N/[O-].C[NH+](C)CCCCCNC(=O)/C=N/[O:10][H:20] 10=20;20,21=21",
